US07662974B2
50 mL of 0.1N hydrochloric acid was added to 5 g of zinc powders, the mixture was stirred vigorously for 10 minutes, filtered, and washed successively with 30 mL of water, 30 mL of ethanol, and 30 mL of ether. Zinc was filtered, followed by vacuum drying at 100° C. for 8 hours. Under argon atmosphere, 4 mL of THF and 0.075 mL (0.59 mmol) of chlorotrimethylsilane were added to 0.52 g (8 mmol) of the zinc powders. The mixture was stirred at 25˜28° C. for 2 minutes, and a solution of 1.04 mL (8 mmol) of isopropyl bromoacetate in 10 mL of THF was added over 10 minutes. The mixture was stirred at 45˜50° C. for 45 minutes. A solution of 0.94 g (1.8 mmol) of N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide in 7.5 mL of THF was added dropwise at −33˜−35° C. over 5 minutes. The mixture was stirred at −43˜−35° C. for 30 minutes, at 15˜25° C. for 3 hours, and at 45˜50° C. for 50 minutes. 5 mL of 1N hydrochloric acid was added dropwise at 25° C., diluted with 25 mL of ethyl acetate, 5 mL of 1N hydrochloric acid was added, and the layers were separated. The organic layer was washed successively with 5 mL of 1N hydrochloric acid two times, 10 mL of water, 5 mL of an aqueous saturated sodium bicarbonate solution, and 5 mL of an aqueous saturated sodium chloride solution. After concentrated under reduced pressure, 2 mL of ethyl acetate was added to the concentration residue. Crystals were filtered, and washed with 1 mL of ethyl acetate. Vacuum drying (40° C.) to a constant weight afforded 0.78 g of isopropyl (3S)-3-hydroxy-3-{6-[(methylamino)carbonyl]-2-naphthyl}-3-(1-trityl-1H-imidazol-4-yl)propanoate. (yield 70%).

reactant | chlorotrimethylsilane | 0.59 mmol, 0.075 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | isopropyl bromoacetate | 8 mmol, 1.04 mL | BrCC(=O)OC(C)C | C5H9BrO2
reactant | N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide | 1.8 mmol, 0.94 g | CNC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H27N3O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1N, 5 mL | Cl | ClH
catalyst | zinc | 5 g | [Zn] | Zn
catalyst | zinc | 8 mmol, 0.52 g | [Zn] | Zn
solvent | hydrochloric acid | 1N, 5 mL | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 0.1N, 50 mL | Cl | ClH
product | isopropyl (3S)-3-hydroxy-3-{6-[(methylamino)carbonyl]-2-naphthyl}-3-(1-trityl-1H-imidazol-4-yl)propanoate | 0.78 g, yield 70% | O[C@](CC(=O)OC(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC2=CC=C(C=C2C=C1)C(=O)NC | C40H37N3O4
